### ISSUE TITLE
Infinite loop in equation lemma generation

### ISSUE THREAD

**Issue by digama0** [leanprover/lean4#1026]
Minimized from https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/unfold.20loops.20indefinitely/near/272902723 . MWE:
```lean
def foo (n : Nat) : Nat :=
  if n = 0 then 0 else
    let x := n - 1
    have := match () with | _ => trivial
    foo x
termination_by _ n => n
decreasing_by sorry

example : foo 0 = 0 := by
  unfold foo
```
The infinite loop is in `Lean.Elab.Eqns.mkEqnTypes.go`:

https://github.com/leanprover/lean4/blob/4794b9709fc026559ad22d0d95b01d59aab573d9/src/Lean/Elab/PreDefinition/Eqns.lean#L143-L160

Here is an illustration of the loop:
```lean
import Lean

def foo (n : Nat) : Nat :=
  if n = 0 then 0 else
    let x := n - 1
    have := match () with | _ => trivial
    foo x
termination_by _ n => n
decreasing_by sorry

open Lean Meta Elab Tactic
elab "test" : tactic => do
  let mvarId ← getMainGoal
  addTrace `test m!"{MessageData.ofGoal mvarId}\n\n"
  let some [mvarId] ← splitTarget? mvarId (splitIte := false) | pure ()
  addTrace `test m!"{MessageData.ofGoal mvarId}\n\n"
  let some [mvarId] ← splitTarget? mvarId (splitIte := false) | pure ()
  addTrace `test m!"{MessageData.ofGoal mvarId}\n\n"
  let some [mvarId] ← splitTarget? mvarId (splitIte := false) | pure ()
  throwError ""

set_option pp.proofs true
example (n) :
  foo n = (if n = 0 then 0 else
    let x := n - 1
    have := match () with | _ => trivial
    foo x) := by
  test
```
```
[test] n : Nat
⊢ foo n =
    if n = 0 then 0
    else
      let x := n - 1;
      let_fun this :=
        let _discr := ();
        match () with
        | x => trivial;
      foo x

[test] n : Nat
x✝¹ : Unit
 : () = x✝¹
⊢ foo n =
    if n = 0 then 0
    else
      let x := n - 1;
      let_fun this :=
        let _discr := x✝¹;
        match x✝¹ with
        | x => trivial;
      foo x

[test] n : Nat
x✝² : Unit
 : () = x✝²
⊢ foo n =
    if n = 0 then 0
    else
      let x := n - 1;
      let_fun this :=
        let _discr := x✝²;
        match x✝² with
        | x => trivial;
      foo x
```
(Not pictured: the private `keepGoing` function also returns true every time.) This seems to be a combination of two factors: the `match` expression causes `splitTarget?` to succeed, even though it's not actually making progress, and since `foo` is applied to `x` which is a local variable, it "has loose bvars" so `keepGoing` returns true every time.
